US05580893
N-(2-Nitroxyethyl)-1,4-benzodioxane-2-carboxamide (Exemplified compound No. 42)
Following a similar treatment to that in Example 2 and using 0.91 g of 1,4-benzodioxane-2-carboxylic acid and 0.85 g of nitroxyethylamine nitrate, 0.45 g of the title compound was obtained as colorless needles (solvent for recrystallization; diisopropyl ether).

reactant | 1,4-benzodioxane-2-carboxylic acid | 0.91 g | O1C(COC2=C1C=CC=C2)C(=O)O | C9H8O4
reactant | nitroxyethylamine nitrate | 0.85 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-1,4-benzodioxane-2-carboxamide | 0.45 g | O([N+](=O)[O-])CCNC(=O)C1COC2=C(O1)C=CC=C2 | C11H12N2O6
